US07829560B2
3′-Trifluoromethyl-biphenyl-3-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide (Compound B88).
Compound is prepared from 3-bromo-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide and 3-trifluoromethylphenyl boronic acid according to conditions described in general procedure K. 1H NMR 300 MHz (DMSO-d6) δ 10.4 (s, 1H), 8.4 (s, 1H), 8.2 (m, 1H), 8.05 (s, 2H), 8.03 (d, 1H), 8.0 (d, 1H), 7.9 (m, 1H), 7.4-7.75 (m, 6H), 7.0 (d, 1H), 4.3 (t, 2H), 3.6 (m, 4H), 2.9 (t, 2H), 2.55 (m, 4H).

reactant | 3-bromo-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide | BrC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CC1 | C23H23BrN2O3
reactant | 3-trifluoromethylphenyl boronic acid | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
product | 3′-Trifluoromethyl-biphenyl-3-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)C(F)(F)F | C30H27F3N2O3
